US07641914B2
1) Preparation of 2,2,2-trifluoro-N-{3-[3-(2,2,2-trifluoroacetylamino)propylamino]propyl}acetamide
35 g of 3,3′-iminobispropylamine (266.7 mmol) were solubilized in 150 ml of anhydrous tetrahydrofuran under an argon stream. The reaction mixture was then cooled to 0° C. on an ice bath and 65 ml of ethyl trifluoroacetate (546.8 mmol) were added dropwise (very slowly) using a dropping funnel. At the end of the addition (3 hours later), the reaction mixture was allowed to return to room temperature and the stirring was maintained for a few hours under argon.

reactant | 3,3′-iminobispropylamine | 266.7 mmol, 35 g | C(CN)CNCCCN | C6H17N3
reactant | ethyl trifluoroacetate | 546.8 mmol, 65 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2,2,2-trifluoro-N-{3-[3-(2,2,2-trifluoroacetylamino)propylamino]propyl}acetamide | FC(C(=O)NCCCNCCCNC(C(F)(F)F)=O)(F)F | C10H15F6N3O2
